US07683168B2
A mixture of 3-{(R)-((2S,5R)-4-allyl-2,5-dimethyl-piperazin-1-yl)[3-(tert-butyl-dimethylsilanyloxy)phenyl]methyl}benzoic acid methyl ester (7.4 g, 14.5 mmol) and 18.2 mL of 2.0 N aqueous sodium hydroxide (36.4 mmol, 2.5 eq) in THF (30 mL) was stirred overnight at room temperature. Hydrochloric acid (18.2 mL of 2 N aqueous solution) was added, and the THF was removed under vacuum. The aqueous residue was filtered to collect precipitated solid, which was washed with dichloromethane to remove organic impurities. The aqueous filtrate was concentrated to dryness to give additional solid material. The recovered solids were combined, washed with water to remove sodium chloride, and dried to give 5.5 g (99.4%) of crude 3-[(R)-((2S,5R)-4-allyl-2,5-dimethylpiperazin-1-yl)(3-hydroxyphenyl)methyl]benzoic acid (Acid A).

reactant | 3-{(R)-((2S,5R)-4-allyl-2,5-dimethyl-piperazin-1-yl)[3-(tert-butyl-dimethylsilanyloxy)phenyl]methyl}benzoic acid methyl ester | 14.5 mmol, 7.4 g | COC(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)N1[C@H](CN([C@@H](C1)C)CC=C)C)=O | C30H44N2O3Si
reactant | sodium hydroxide | 36.4 mmol, 2.0 N, 18.2 mL, 2.5 eq | [OH-].[Na+]
reactant | Hydrochloric acid | 2 N, 18.2 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-[(R)-((2S,5R)-4-allyl-2,5-dimethylpiperazin-1-yl)(3-hydroxyphenyl)methyl]benzoic acid | 5.5 g, 99.4% | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@H](C=1C=C(C(=O)O)C=CC1)C1=CC(=CC=C1)O)C | C23H28N2O3
